US06500835B2
320 mg (1.17 mmol) of 3-t-butoxycarbonyl-4-hydroxybenzenesulfonamide and 447 mg (1.17 mmol) of benzyl 4-chloro-2-N-phenoxycarbonylanthranilate were treated in the same way as in Preparation Example 17 to obtain 611 mg (yield 93%) of benzyl 2-{[(3-t-butoxycarbonyl-4-hydroxybenzenesulfonylamino)carbonyl]amino}-4-chlorobenzoate. Properties: colorless amorphous, PMR (δ ppm, CDCl3): 1.62 (9H, s), 5.35 (2H, s), 7.01-7.05 (2H, m), 7.37-7.41 (5H, m), 7.96(1H, d), 8.10 (1H, dd), 8.46-8.48 (2H, m), 10.99 (1H, s), 11.66 (1H, s).

reactant | 3-t-butoxycarbonyl-4-hydroxybenzenesulfonamide | 1.17 mmol, 320 mg | C(C)(C)(C)OC(=O)C=1C=C(C=CC1O)S(=O)(=O)N | C11H15NO5S
reactant | benzyl 4-chloro-2-N-phenoxycarbonylanthranilate | 1.17 mmol, 447 mg | ClC=1C=C(C(C(=O)OCC2=CC=CC=C2)=CC1)NC(=O)OC1=CC=CC=C1 | C21H16ClNO4
product | benzyl 2-{[(3-t-butoxycarbonyl-4-hydroxybenzenesulfonylamino)carbonyl]amino}-4-chlorobenzoate | 611 mg, yield 93% | C(C)(C)(C)OC(=O)C=1C=C(C=CC1O)S(=O)(=O)NC(=O)NC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)Cl | C26H25ClN2O8S
